US04968819
Preparation of 6-hydroxy-7-ethoxy-2,2-dimethyl-4-chromanone
In 100 ml of methyl-ethyl-ketone 4.2 g (2 (20 millimoles) of 6,7-dihydroxy-2,2-dimenthyl-4chromanone are dissolved. To the solution 4.1 (30 millimoles) of potassium carbonate and 4.7 g (2.4 ml, 30 millimoles) of ethyl iodide are added and the reaction mixture is heated to boiling for 3 hours. The reaction mixture is worked up according to Example 17. Thus 4.0 g of the title compound are obtained, yield 85%. Mp.: 129°-130° C.

reactant | 6,7-dihydroxy-2,2-dimenthyl-4chromanone | OC=1C=C2C(CC(OC2=CC1O)(C1CC(CCC1C(C)C)C)C1CC(CCC1C(C)C)C)=O | C29H44O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 30 millimoles, 2.4 ml, 4.7 g | C(C)I | C2H5I
solvent | methyl-ethyl-ketone | 100 ml, 4.2 g | CC(=O)CC | C4H8O
product | 6-hydroxy-7-ethoxy-2,2-dimethyl-4-chromanone | 4.0 g, yield 85% | OC=1C=C2C(CC(OC2=CC1OCC)(C)C)=O | C13H16O4
